US05180418
Preparation of 9-[4-chloro-2-fluoro-5-(1-methoxycarbonyl-cyclopropylthio)-phenylimino]-8-thia-1,6-diazabicyclo[4.3.0]nonan-7-one
While stirring at a temperature of from 0° to +10° C., 5.7 ml of a 20% solution of phosgene in toluene are added dropwise to a solution of 3.7 g of 1-[2-chloro-4-fluoro-5-(1-hexahydropyridazinyl-thiocarbonylamino)-phenylthio]-cyclopropanecarboxylic acid methyl ester and 4.6 ml of triethylamine in 100 ml of toluene. The reaction mixture is then stirred for 4 hours and then introduced into ice-water. The organic phase is then separated off and dried over sodium sulfate. Concentration by evaporation and subsequent chromatographic purification by means of silica gel chromatography yield 3.7 g of 9-[4-chloro-2-fluoro-5-(1-methoxycarbonyl-cyclopropylthio)-phenylimino]-8-thia-1,6-diazabicyclo[4.3.0]nonan-7-one, having a melting point of +149° C.

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 1-[2-chloro-4-fluoro-5-(1-hexahydropyridazinyl-thiocarbonylamino)-phenylthio]-cyclopropanecarboxylic acid methyl ester | 3.7 g | COC(=O)C1(CC1)SC1=C(C=C(C(=C1)NC(=S)N1NCCCC1)F)Cl | C16H19ClFN3O2S2
reactant | triethylamine | 4.6 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 9-[4-chloro-2-fluoro-5-(1-methoxycarbonyl-cyclopropylthio)-phenylimino]-8-thia-1,6-diazabicyclo[4.3.0]nonan-7-one | ClC1=CC(=C(C=C1SC1(CC1)C(=O)OC)N=C1SC(N2CCCCN12)=O)F | C17H17ClFN3O3S2
